US05405851
A suspension of 2,4-diaminodibenzo[f,h]quinazoline (0.20 g, 0.76 mmol) in 1N HCl (150 ml) was stirred at reflux for 24 h, then neutralized with NH4OH. The resulting solid was filtered, washed with water and methanol, then suspended in warm methanol (50 ml) for 20 minutes, filtered and dried at 90° C. under reduced pressure. The solid was nearly dissolved in ethanol (100 ml) and 1N NaOH (~1.5 ml), filtered, and the filtrate neutralized with acetic acid to give a precipitate which was filtered, washed with ethanol, and dried at 90° C. under reduced pressure. The solid was briefly heated to reflux in pivalic anhydride (4 ml), the solution concentrated in vacuo, and the residue subjected to chromatography on silica gel, eluting with methylene chloride containing a small percentage of ethyl acetate. The pivalamide (not characterized) was hydrolyzed in a solution of methanol (9 ml) and 1N NaOH (1 ml) at reflux for 1.5 hours. The solution was neutralized with acetic acid, and the precipitate filtered, washed with methanol and dried at 90° C. under reduced pressure to give 2-aminodibenzo[f,h]quinazolin-4-(3H)-one as a beige solid (0.10 g). 1H NMR (DMSO-d6, 200 MHz) δ: 6.69 (br s, 2H, NH2), 7.47-7.84 (m, 4H, Ar), 8.66-8.80 (m, 2H, Ar), 8.96 (dd, J=8, 1 Hz, 1H, Ar), 9.75-9.83 (m, 1H, Ar), 11.26 (br s, 1H, NH). Mass spectrum (CI-CH4) 262 (M+1, 100%). Anal. Calculated for C16H11N3O: C, 73.55; H, 4.24; N, 16.08. Found: C, 73.52; H, 4.27; N, 16.03.

reactant | 2,4-diaminodibenzo[f,h]quinazoline | 0.76 mmol, 0.20 g | NC1=NC2=C3C(=C4C(=C2C(=N1)N)C=CC=C4)C=CC=C3 | C16H12N4
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 1N, 150 ml | Cl | ClH
product | 2-aminodibenzo[f,h]quinazolin-4-(3H)-one | 0.10 g | NC1=NC2=C3C(=C4C(=C2C(N1)=O)C=CC=C4)C=CC=C3 | C16H11N3O
